US07858653B2
(3-Chloro-benzyl)-(1H-imidazol-2-yl)-amine
To a solution of 3-chlorobenzaldehyde (0.16 ml, 1.4 mmol) in dichloromethane (10 ml) were added sequentially 2-aminoimidazole sulfate (0.19 g, 0.7 mmol), tetraisopropyl orthotitanate (0.51 ml, 1.7 mmol) and triethylamine (0.19 ml, 1.4 mmol). The reaction mixture was stirred at room temperature for 16 hours and then concentrated in vacuo. The residue was taken up in ethanol (5 ml) and then sodium borohydride (54 mg, 1.4 mmol) was added. The reaction mixture was stirred at room temperature for 3 hours and then quenched by the addition of water. After stirring for a further 15 minutes at room temperature, the reaction mixture was filtered and the filter cake washed with ethanol. The filtrate was concentrated in vacuo and the residue was purified by chromatography on silica gel (eluant:methanol/dichloromethane 0:100 to 10:90) to yield the title compound as an off-white solid (87 mg, 30%); MS (ISP): 208.7 ([M+H]+).

reactant | 3-chlorobenzaldehyde | 1.4 mmol, 0.16 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 2-aminoimidazole sulfate | 0.7 mmol, 0.19 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | triethylamine | 1.4 mmol, 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 1.4 mmol, 54 mg | [BH4-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | tetraisopropyl orthotitanate | 1.7 mmol, 0.51 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | (3-Chloro-benzyl)-(1H-imidazol-2-yl)-amine | 87 mg, 30% | ClC=1C=C(CNC=2NC=CN2)C=CC1 | C10H10ClN3
